US07749999B2
5-tert-Butyl-N-cyclopropyl-2-methoxy-3-nitro-benzamide.
To a solution of 5-t-butyl-2-methoxy-3-nitrobenzoic acid (759 mg, 3 mmol) in 18 mL DCM, oxalyl chloride (1.8 mL, 15 mmol) was added. After stirring at rt for 2 hr the reaction mixture was concentrated to dryness. The resulting acid chloride was dissolved in 30 mL DCM, and DIEA (2.6 mL, 15 mmol) and cyclopropyl amine (0.83 mL, 12 mmol) were added. Stirring was continued overnight at rt, after which DCM was added to the reaction mixture. After aq. sodium bicarbonate work-up, column chromatography purification was performed on ISCO Optix (3×12 g silica gel column) using DCM. 678 mg pure product was isolated as pale yellow solid. Calculated mass=292. Observed mass=295

reactant | 5-t-butyl-2-methoxy-3-nitrobenzoic acid | 3 mmol, 759 mg | C(C)(C)(C)C=1C=C(C(=C(C(=O)O)C1)OC)[N+](=O)[O-] | C12H15NO5
reactant | oxalyl chloride | 15 mmol, 1.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIEA | 15 mmol, 2.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropyl amine | 12 mmol, 0.83 mL | C1(CC1)N | C3H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
product | 5-tert-Butyl-N-cyclopropyl-2-methoxy-3-nitro-benzamide | 678 mg | C(C)(C)(C)C=1C=C(C(=C(C(=O)NC2CC2)C1)OC)[N+](=O)[O-] | C15H20N2O4
